US06521666B1
1-Bromo-2,6-dichlorobenzene (2.00 g) was dissolved in freshly distilled THF (7 mL). This solution was cooled to −78° C. and n-BuLi (8.3 mL of a 1.6M solution in hexane) was added dropwise to the cold solution under N2. The mixture was stirred for 5 min at −78° C. and (MeO)3B (2.2 mL) was added. The resulting mixture was allowed to warm to room temperature and stirred overnight. Water was added and the resulting mixture was stirred for 0.5 h, then acidified with HOAc and extracted with EtOAc. The organic layer was further washed with water and brine, dried (MgSO4) filtered and evaporated to yield 2,6-dichlorobenzeneboronic acid (1.6 g)

reactant | 1-Bromo-2,6-dichlorobenzene | 2.00 g | BrC1=C(C=CC=C1Cl)Cl | C6H3BrCl2
reactant | n-BuLi | [Li]CCCC
reactant | (MeO)3B | 2.2 mL | B(OC)(OC)OC | C3H9BO3
reactant | Water | O | H2O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | HOAc | CC(=O)O | C2H4O2
product | 2,6-dichlorobenzeneboronic acid | 1.6 g | ClC1=C(C(=CC=C1)Cl)B(O)O | C6H5BCl2O2
